US07288537B2
A solution of 3-(4-Chloro-phenoxy)-azetidine hydrochloride (0.669 g, 3.04 mmol), triethylamine (1.7 ml, 12.16 mmol) and [(S)-3-Iodo-1-methoxymethyl-propyl)-carbamic acid tert-butyl ester (1.0 g, 3.04 mmol) in dimethylformamide (10 ml) is stirred at ambient temperature for 18 hours, then partitioned between ethylacetate and water. The ethylacetate phase is washed with saturated aqueous sodium bicarbonate solution and brine, dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution with a 5:95 methanol/dichloromethane) to afford {(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-methoxymethyl-propyl}-carbamic acid tert-butyl ester as a clear oil. [MH]+ 385.25.

reactant | 3-(4-Chloro-phenoxy)-azetidine hydrochloride | 3.04 mmol, 0.669 g | Cl.ClC1=CC=C(OC2CNC2)C=C1
reactant | triethylamine | 12.16 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | [(S)-3-Iodo-1-methoxymethyl-propyl)-carbamic acid tert-butyl ester | 3.04 mmol, 1.0 g | C(C)(C)(C)OC(N[C@@H](CCI)COC)=O | C10H20INO3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | {(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-methoxymethyl-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCN1CC(C1)OC1=CC=C(C=C1)Cl)COC)=O | C19H29ClN2O4
